US07582629B2
4-Chloro-2-ethyl-5-[4-(trifluoromethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide
Oxalyl chloride (0.379 g, 2.99 mmol) was added dropwise to a solution of 2-ethyl-4-hydroxy-5-[4-(trifluoromethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide (0.480 g, 1.49 mmol) and DMF (0.109 g, 1.49 mmol) in DCM (12 mL). The mixture was refluxed for 1 h. It was evaporated and water was added. The resulting mixture was extracted with EtOAc, and the combined organic layers were washed with brine and evaporated to give the title compound (0.306 g, 71%) as a solid; 1H NMR (500 MHz, DMSO-d6): δ 8.07-8.11 (m, 4H), 3.81 (q, 2H), 1.33 (t, 3H).

reactant | Oxalyl chloride | 2.99 mmol, 0.379 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-ethyl-4-hydroxy-5-[4-(trifluoromethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide | 1.49 mmol, 0.480 g | C(C)N1S(C(=C(C1=O)O)C1=CC=C(C=C1)C(F)(F)F)(=O)=O | C12H10F3NO4S
reactant | DMF | 1.49 mmol, 0.109 g | CN(C)C=O | C3H7NO
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-2-ethyl-5-[4-(trifluoromethyl)phenyl]isothiazol-3(2H)-one 1,1-dioxide | 0.306 g, 71% | ClC=1C(N(S(C1C1=CC=C(C=C1)C(F)(F)F)(=O)=O)CC)=O | C12H9ClF3NO3S
